US07244861B2
928 mg of 5-bromo-3-fluoro-2-hydroxybenzaldehyde was dissolved in 3 ml of N,N-dimethylformamide, and 0.5 ml of methyl iodide and 1 g of potassium carbonate were successively added, followed by stirring for 1 hour at 50° C. The reaction mixture was diluted with ethyl acetate, and washed with water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated, to give 926 mg of 5-bromo-3-fluoro-2-methoxybenzaldehyde. This crude product was dissolved in 4 ml of ethanol and 2 ml of tetrahydrofuran, and 200 mg of sodium tetrahydroborate was added, followed by stirring for 0.5 hours at room temperature. The reaction was quenched with 1 N-hydrochloric acid, followed by extracting with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate 3:1), to give 907 mg of 5-bromo-3-fluoro-2-methoxybenzyl alcohol.

reactant | 5-bromo-3-fluoro-2-hydroxybenzaldehyde | 928 mg | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-fluoro-2-methoxybenzaldehyde | 926 mg | BrC=1C=C(C(=C(C=O)C1)OC)F | C8H6BrFO2
